US05861421
A mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)-1,1-(ethylenedioxy)cyclohexane (0.10 g, 0.24 mmol) and pyridinium p-toluenesulfonate (0.06 g, 0.24 mmol) in acetone (4 mL) and water (1 mL) was refluxed for 20 h., then was evaporated. Water was added, the mixture was extracted three times with dichloromethane, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 35:65 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)cyclohexan-1-one (0.08 g, 91%) as a white solid, mp 148°-149° C. Anal. (C25H27NO3.0.5 H2O) calcd: C, 75.29; H, 7.08; N, 3.51; found: C, 75.51; H, 6.95; N, 3.42.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)-1,1-(ethylenedioxy)cyclohexane | 0.24 mmol, 0.10 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC=NC=C2 | C27H31NO4
reactant | pyridinium p-toluenesulfonate | 0.24 mmol, 0.06 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(4-pyridylethynyl)cyclohexan-1-one | 0.08 g, 91% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC=NC=C1 | C25H27NO3
